US05952382
(a) Preparation of 3-(1-adamantyl)-6-bromo-2-naphthol
56 g (0.25 mol) of 6-bromo-2-naphthol, 38.2 g (0.25 mol) of 1-adamantanol and 500 ml of a mixture of dichloromethane and heptane (40/60) were introduced into a round-bottomed flask. 15 ml of concentrated sulfuric acid were added and the reaction mixture was stirred at room temperature for 48 hours. The solid was filtered off, washed with heptane (3×100 ml) and dissolved in ethyl ether and the organic phase was washed with water, separated by settling, dried over magnesium sulfate and evaporated. 60.1 g (67%) of the expected compound were collected, which compound had a melting point of 215°-6° C.

reactant | 6-bromo-2-naphthol | 0.25 mol, 56 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 1-adamantanol | 0.25 mol, 38.2 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | heptane | CCCCCCC | C7H16
product | 3-(1-adamantyl)-6-bromo-2-naphthol | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC3=CC=C(C=C3C2)Br)O | C20H21BrO
